US08022206B2
4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-N-(2-fluorophenyl)-3,6-dihydropyridine-1(2H)-carboxamide
A mixture of 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine (10.0 mg, 0.0237 mmol), 2-fluorophenyl isocyanate (0.00597 g, 0.0436 mmol), DIPEA (0.033 mL, 0.19 mmol) in DMF (1 mL) was stirred at rt for 3 h. Purification by HPLC afforded the title compound. 1H NMR (400 MHz, CD3OD): δ=1.89 (d, J=6.8 Hz, 3H), 2.58 (br. s., 2H), 3.69-3.80 (m, 2H), 4.25 (d, J=2.5 Hz, 2H), 6.31 (br. s., 1H), 6.51 (q, J=6.7 Hz, 1H), 7.08-7.16 (m, 3H), 7.22 (t, J=8.7 Hz, 1H), 7.40 (dd, J=9.0, 4.9 Hz, 1H), 7.45-7.52 (m, 1H), 7.68 (s, 1H), 8.22 (s, 1H). MS (ES+): m/z 559.05/561.04 (100/75) [MH+]. HPLC: tR=3.42 min (ZQ3, polar—5 min).

reactant | 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine | 0.0237 mmol, 10.0 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
reactant | 2-fluorophenyl isocyanate | 0.0436 mmol, 0.00597 g | FC1=C(C=CC=C1)N=C=O | C7H4FNO
reactant | DIPEA | 0.19 mmol, 0.033 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-N-(2-fluorophenyl)-3,6-dihydropyridine-1(2H)-carboxamide | NC1=C(C2=C(C=N1)C(=CO2)C=2CCN(CC2)C(=O)NC2=C(C=CC=C2)F)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C27H22Cl2F2N4O3
